US07084270B2
FMOC-L-Leucine (5 g, 14.14 mmol) (Bachem) was dissolved in acetonitrile (70 mL). Pyridine (1.14 mL, 14.14 mmol) (Aldrich) and cyanuric fluoride (1.91 g, 14.14 mmol) (Aldrich) were successively added at room temperature and the mixture was stirred overnight. Ice cold water (300 mL) was added and the resulting slurry was filtered. The filtrate was poured into a separatory funnel and the layers were separated. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford FMOC-L-leucyl fluoride as a white powder. (Yield 4.57 g, 91%).

reactant | FMOC-L-Leucine | 14.14 mmol, 5 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | Pyridine | 14.14 mmol, 1.14 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 14.14 mmol, 1.91 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | FMOC-L-leucyl fluoride | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(C)C)C(=O)F | C21H22FNO3
